US07417060B2
To a solution of tert-butyl [(2R)-2-hydroxy-2-phenylethyl][2-[3′-(isopropoxy)-4′-[[(methylsulfonyl)amino]-carbonyl]-4-biphenylyl]ethyl]carbamate (65 mg) in 1,4-dioxane (2 ml) was added hydrochloric acid 1,4-dioxane solution (4N, 4 ml) at room temperature and the mixture was stirred at the same temperature for 2.5 hours. The mixture was evaporated under reduced pressure to give 4′-[2-[[(2R)-2-hydroxy-2-phenylethyl]amino]ethyl]-3-isopropoxy-N-(methylsulfonyl)-4-biphenylcarboxamide hydrochloride (38 mg).

reactant | tert-butyl [(2R)-2-hydroxy-2-phenylethyl][2-[3′-(isopropoxy)-4′-[[(methylsulfonyl)amino]-carbonyl]-4-biphenylyl]ethyl]carbamate | 65 mg | O[C@@H](CN(C(OC(C)(C)C)=O)CCC1=CC=C(C=C1)C1=CC(=C(C=C1)C(=O)NS(=O)(=O)C)OC(C)C)C1=CC=CC=C1 | C32H40N2O7S
reactant | hydrochloric acid 1,4-dioxane | 4N, 4 ml | O1CCOCC1.Cl
solvent | 1,4-dioxane | 2 ml | O1CCOCC1 | C4H8O2
product | 4′-[2-[[(2R)-2-hydroxy-2-phenylethyl]amino]ethyl]-3-isopropoxy-N-(methylsulfonyl)-4-biphenylcarboxamide hydrochloride | 38 mg | Cl.O[C@@H](CNCCC1=CC=C(C=C1)C1=CC(=C(C=C1)C(=O)NS(=O)(=O)C)OC(C)C)C1=CC=CC=C1 | InChI=1S/C27H32N2O5S.ClH/c1-19(2)34-26-17-23(13-14-24(26)27(31)29-35(3,32)33)21-11-9-20(10-12-21)15-16-28-18-25(30)22-7-5-4-6-8-22;/h4-14,17,19,25,28,30H,15-16,18H2,1-3H3,(H,29,31);1H/t25-;/m0./s1
